Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ male with a history of a 
recent NSTEMI, COPD, atrial fibrillation, diastolic heart 
failure, aortic stenosis, pacemaker for sick sinus, and a 
history of endocarditis who presented to ___ after 
sustaining a fall and developing chest pain. 

Per report, the patient has been having exertional chest pain 
since the day prior to admission. The patient's chest pain was 
described as left substernal pressure with radiation to the left 
arm. 

Of note, the patient was admitted to ___ 
recently for a bilateral upper lobe pneumonia and an NSTEMI from 
___ to ___. He was treated with doxycycline and ceftriaxone 
for the pneumonia and NSTEMI was medically managed. Peak 
troponin unknown and he did not undergo a cardiac 
catheterization (unclear).  He presented to the ___ on 
___ with
transient confusion that may have been related to sleeping 
without his CPAP. On ___ he again presented to ___ with 
wrist pain and found to have calcium pyrophosphate crystals on 
joint aspirate and started on a few days of prednisone. Called 
back to the ED on ___ due to Strep growth from joint aspirate 
that was ultimately thought to be a contaminant. 

Of note, this is at least his ___ hospitalization of ___, 7 of 
which have been at ___. 

On this presentation at ___, he was found to have an 
NSTEMI with a Trop-T of 0.19 and a pro-BNP 542. EKG was 
unremarkable/ unchanged from prior. He was given full dose 
aspirin, started on a heparin gtt, and was ordered for SL nitro 
which was not received due to the absence of chest pain. Hip, 
pelvis and CXR did not reveal fractures. Patient with complaint 
of some unsteadiness and apparent dysarthria which may be his 
normal mode of speech given that he is edentulous. TPA was not 
considered in this patient given that he presented outside of 
window and CVA waslow on the differential. The patient was 
subsequently transferred to ___ for further work up.  
 
Upon arrival to the ED at ___, the patient was chest pain free 
and resting comfortably. His labs returned and were notable for 
a second Trop-T of 0.19, Lactate 1.4, and INR of 1.2. He was 
admitted to the cardiology service for further work up.  
 
Upon arrival to the floor, the patient endorsed the above 
history. He is a difficult historian, but currently denies any 
chest pain, palpitations, shortness of breath, or lower 
extremity edema.  
 
Past Medical History:
 - aortic stenosis s/p TAVR (___ ___
 - Sick sinus syndrome s/p pacemaker  ___, ___
 - 3.3cm Abdominal AAA s/p endovascular repair (___)
 - Atrial fibrillation not on anticoagulation. AC previously 
discussed with outpatient cardiologist but deferred pending 
clarification of his care at multiple other hospitals.
 - Diastolic congestive heart failure 
 - HTN  
 - HLD  
 - COPD  
 - History of possible endocarditis  
 - 7mm basilar tip intracranial aneurysm  
 
Social History:
___
Family History:
- Non-contributory  
 
Physical Exam:
ADMISSION PHYSICAL EXAM  
 ===================  
T 98.4, BP 124 / 79, HR 65, RR 18, O2 94 Ra
General: Tired, elderly man lying in bed speaking to me in no 
apparent distress. 
HEENT: Pupils equal and reactive. Moist mucous membranes. 
Neck : JVP ___
Cardiac: S1/S2 regular. Distant heart sounds. No obvious 
murmurs. No S3/S4, rubs. 
Pulmonary: Bibasilar faint rales less than ___ of the way up 
lung fields. No use of respiratory muscles. No respiratory 
distress. 
Abdominal/GI: Soft. Non-distended. Some epigastric tenderness to 
palpation. 
Neuro: A+Ox2, Sensation intact upper and lower extremities, 
moving all extremities 
Skin: Multiple seborrheic keratoses  

DISCHARGE PHYSICAL EXAM  
 ===================  
24 HR Data (last updated ___ @ 508)
Temp: 97.6 (Tm 99.1), BP: 112/69 (107-137/64-81), HR: 58 
(58-75),
RR: 18 (___), O2 sat: 95% (92-95), O2 delivery: Cpap, Wt: 
201.1
lb/91.22 kg  
General: Tired, elderly man sitting up in a chair speaking to me 
In no apparent distress. 
HEENT: Pupils equal and reactive. Moist mucous membranes. 
Cardiac: S1/S2 regular. Distant heart sounds. No obvious 
murmurs. No S3/S4, rubs. 
Pulmonary: Lungs sounded clear with no wheezes, rhales, or 
rhonchi. No use of respiratory muscles. No respiratory distress. 

Abdominal/GI: Soft. Non-distended. No epigastric tenderness to 
palpation. 
Neuro: A+Ox2-3
Skin: Multiple seborrheic keratoses  
 
Pertinent Results:
============================
ADMISSION LABORATORY STUDIES
============================
___ 06:30AM BLOOD WBC-8.3 RBC-3.89* Hgb-10.5* Hct-33.7* 
MCV-87 MCH-27.0 MCHC-31.2* RDW-15.7* RDWSD-49.3* Plt ___
___ 06:30AM BLOOD ___ PTT-65.8* ___
___ 06:30AM BLOOD Glucose-118* UreaN-13 Creat-1.2 Na-142 
K-3.7 Cl-99 HCO3-27 AnGap-16

==========================================
DISCHARGE AND PERTINENT LABORATORY STUDIES
==========================================
___ 06:30AM BLOOD cTropnT-0.19*
___ 01:03PM BLOOD CK-MB-3 cTropnT-0.16*

___ 06:19AM BLOOD Glucose-135* UreaN-18 Creat-1.2 Na-142 
K-3.5 Cl-96 HCO3-33* AnGap-13
___ 06:19AM BLOOD WBC-5.8 RBC-3.67* Hgb-10.1* Hct-31.7* 
MCV-86 MCH-27.5 MCHC-31.9* RDW-15.3 RDWSD-48.4* Plt ___

===========================
REPORTS AND IMAGING STUDIES
===========================
___ Cardiac Perfusion Test
TECHNIQUE:  ISOTOPE DATA: (___) 10.5 mCi Tc-99m Sestamibi 
Rest; (___)
31.2 mCi Tc-99m Sestamibi Stress; DRUG DATA: (Non-NM admin) 
Regadenoson; Resting images were obtained approximately 45 
minutes following the intravenous injection of tracer.
Stress images were obtained after resting images and 
approximately 30 minutes following the intravenous injection of 
tracer.

Imaging protocol: Gated SPECT.

SUMMARY FROM THE EXERCISE LAB:
For pharmacologic stress 0.4 mg of regadenoson (0.08 mg/ml) was 
infused  ntravenously over 20 seconds followed by a saline 
flush.
 
FINDINGS:  Left ventricular cavity size is normal, EDV is 51 mL. 

Rest and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium. 
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 68%.
IMPRESSION:  1.  Normal myocardial perfusion study.

___ TTE
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. The inferior vena 
cava diameter is normal. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
suboptimal image quality to assess regional left ventricular 
function. The visually estimated left ventricular ejection 
fraction is >=55%. Left ventricular cardiac index is normal 
(>2.5 L/ min/m2). There is no resting left ventricular outflow 
tract gradient. The right ventricle was not well seen with 
normal free wall motion. The aortic sinus diameter is normal for 
gender with mildly dilated ascending aorta. The aortic arch is 
mildly dilated. An ___ aortic valve bioprosthesis is 
present. The effective orifice area index is normal (>=0.85 
cm2/m2). There is a paravalvular jet of trace aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is trivial mitral 
regurgitation. The pulmonic valve leaflets are not well seen. 
The tricuspid valve leaflets appear structurally normal. There 
is trivial tricuspid regurgitation. Due to acoustic shadowing, 
the severity of tricuspid regurgitation may be UNDERestimated. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. There is a prominent anterior 
fat pad.

IMPRESSION: Suboptimal image quality. No large wall motion 
abnormalities, but given poor image
quality a small territory of hypokinesis could have been missed. 
Normal global left ventricular
systolic function. Grossly normal right ventricular systolic 
function (poorly visualized). Well
seated, normal functioning ___ 3 TAVR with normal gradient 
and trace paravalvular aortic
regurgitation. Compared with the prior TTE (images reviewed) of 
___ , image quality is worse and there has been interval 
placement of ___ 3 TAVR.

============
MICROBIOLOGY
============
None

 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
This is an ___ male with a history of a recent NSTEMI, 
COPD, atrial fibrillation, diastolic heart failure, aortic 
stenosis s/p bioprosthetic valve replacement (TAVR), pacemaker 
for sick sinus, and a history of endocarditis who presented to 
___ after sustaining a fall and developing chest pain and 
was found to have an NSTEMI and was asymptomatic after arrival 
and hemodynamically stable. His stress test was negative for 
ischemia. 

===================
TRANSITIONAL ISSUES
===================
- New Meds: None
- Stopped/Held Meds: None
- Changed Meds: None
- Discharge weight: 91.22 kg (201.1 lb)

- Found to have poor nutrition and recommended for tube feeding, 
but this was declined by patient. Should have close monitoring 
of nutrition going forward. 
- Not anticoagulated for paroxysmal atrial fibrillation. He is 
higher risk for bleed with known intracranial aneurysm, but 
risks and benefits of anticoagulation could be discussed with 
patient and family. 
- Recommended to have ___ rehabilitation but the patient 
declined. This is at least his ___ hospitalization of ___ and 
addressing his goals of care regarding future hospitalizations 
may be useful. 

====================
ACUTE MEDICAL ISSUES
====================
# NSTEMI 
# Chest Pain/Dyspnea 
Presents with several days of chest pain that is mostly at rest. 
Completely resolved upon arrival to floor. No ischemic changes 
on ECG. No wall motion abnormalities on TTE from ___ during his 
last NSTEMI in the setting of PNA. Treated with heparin after 
troponin elevation was found, however given that his troponins 
are quickly downtredned, he was chest pain free, his TTE did not 
show obvious WMA and he has an incracranial aneurysm, heparin 
was discontinued. A pharmacologic nuclear stress test was a 
normal study with no evidence of ischemic or scar. He does have 
known moderate lesions in two vessels from a coronary 
angiography at the time of his TAVR. 
- Continue home atorvastatin 80mg, plavix 75mg, ASA 81mg 
- Continue home metoprolol tartrate 50mg BID 

# Diastolic congestive heart failure 
On torsemide 40mg daily. Unknown dry weight. He was mildly 
hypervolemic on presentation. Precipitating cause may have been 
recent prednisone use for pseudogout or dietary indiscretion. 
TTE shows well seat ___ 3 valve with preserved EF. After one 
day of IV diuresis he was again euvolemic and continued on his 
home torsemide dose. 
- Torsemide 40mg QD
- Continue metoprolol 

# Atrial fibrillation 
In sinus rhythm throughout admission. No history of being 
anticoagulated, though this had briefly been discussed by his 
outpatient cardiologist. CHA2DSVASC2 is 4. Slightly higher risk 
of bleed given known intracranial aneurysm. Will defer to 
outpatient cardiologist regarding anticoagulation. 
- AC: Has not been started by outpatient cardiologist, holding 
for now given intracranial aneurysm 
- Rate control: Metoprolol tartrate 50mg BID

#Poor PO intake
Patient reports he has not eaten much recently. He has lost 
about 40 pounds in ___ years. He was recommended to have tube 
feeding by nutrition but this was declined by the patient. He 
needs close monitoring of his nutrition status. He was also 
found to be high risk of aspiration and a modified food 
consistency was recommended. He was recommended to go to rehab 
facility but declined. 
- Ensure Enlive TID, Magic Cup TID
- Diet: Ground/Thins
- Medications: crushed or whole in applesauce 

======================
CHRONIC MEDICAL ISSUES
======================
# HLD: Continued home atorvastatin 80 mg PO QHS 

# COPD: Continued home fluticasone propion-salmeterol 1 inh 
INHALATION
BID 

# GERD: Continued home Prilosec 20 mg PO DAILY 

# Sick sinus syndrome s/p pacemaker: Continuous telemetry 
monitoring 

# Anxiety/Depression 
- Continued home escitalopram oxalate 5 mg PO DAILY 
- Continued home alprazolam 1 mg PO BID PRN 
- Continued home mirtazapine [Remeron] 15 mg PO QHS 

Discharge time 35 min
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Omeprazole 20 mg PO DAILY 
2. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
3. ALPRAZolam 1 mg PO BID 
4. Atorvastatin 80 mg PO QPM 
5. Clopidogrel 75 mg PO DAILY 
6. Escitalopram Oxalate 10 mg PO DAILY 
7. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
8. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 
9. Mirtazapine 15 mg PO QHS 
10. GuaiFENesin ER 1200 mg PO BID:PRN cough 
11. Metoprolol Tartrate 50 mg PO BID 
12. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
13. Torsemide 40 mg PO DAILY 
14. Polyethylene Glycol 17 g PO DAILY 
15. Potassium Chloride 20 mEq PO TID 
16. olopatadine 0.1 % ophthalmic (eye) DAILY 
17. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea  
3.  ALPRAZolam 1 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Clopidogrel 75 mg PO DAILY  
7.  Escitalopram Oxalate 10 mg PO DAILY  
8.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
9.  GuaiFENesin ER 1200 mg PO BID:PRN cough  
10.  Metoprolol Tartrate 50 mg PO BID  
11.  Mirtazapine 15 mg PO QHS  
12.  olopatadine 0.1 % ophthalmic (eye) DAILY  
13.  Omeprazole 20 mg PO DAILY  
14.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
15.  Polyethylene Glycol 17 g PO DAILY  
16.  Potassium Chloride 20 mEq PO TID  
17.  Torsemide 40 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
NSTEMI Type II
Acute heart failure with preserved ejection fraction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you while you were admitted to ___ 
___. 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were having chest pain and there was evidence of a very 
small heart attack. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- Your heart attack quickly resolved. We did a stress test that 
did not show any major blockages in the heart. We did an 
ultrasound of the heart that showed it was pumping well. 
- We changed your diet to make you less at risk of having food 
go into your lungs. 
- We recommended you go to a rehabilitation facility, but will 
arrange to have visiting nurses because you decided to go home. 

WHAT SHOULD YOU DO WHEN YOU GO HOME?
- Carefully review the attached medication list as we may have 
made changes to your medications. 

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___